US07642270B2
C. 8-Cyclopentyl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Bromine (0.13 g, 0.82 mmol) was added to a solution of 8-Cyclopentyl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (0.34 g, 0.82 mmol) in DCM (5 mL). After 15 min, the solution was concentrated and the crude residue was redissolved in DCM (5 mL) and triethylamine (0.16 mL, 0.24 mmol) was added. After 15 h, the reaction mixture was partitioned between water and DCM, the organic layer was separated, dried (MgSO4) and concentrated to provide the title compound. Mass Spectrum (LCMS, ESI pos.) Calcd. For C16H19N3O3S: 333.11, found: (M+H) 334.1.

reactant | Bromine | 0.82 mmol, 0.13 g | BrBr | Br2
reactant | 8-Cyclopentyl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.82 mmol, 0.34 g | C(C)OC(=O)C1C(C2=C(N=C(N=C2)SC)N(C1)C1CCCC1)=O | C16H21N3O3S
reactant | triethylamine | 0.24 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-Cyclopentyl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)SC)N(C1)C1CCCC1)=O | C16H19N3O3S
